* ECL Schmitt trigger -- Berkeley SPICE2 deck [n2s test case 50]
*
* === n2s test-case metadata ===
* Source:       ngspice repository, tests/general/schmitt.cir (original
*               UC Berkeley SPICE test deck)
* Circuit type: ECL-compatible Schmitt trigger: BJT regenerative pair
*               with emitter coupling and hysteresis thresholds
* Devices:      13 -- 4 npn BJT, 7 R, 1 C, 2 V sources
* Notes:        First HYSTERESIS/regenerative bipolar topology; `q1 ...
*               qstd off` carries an OFF initial-condition token after
*               the model name (parser stress); negative single supply.
* Added:        2026-07-04  (batch 7)
* ===============================
* schmitt ckt - ecl compatible schmitt trigger  (original title, commented)
.width in=72

.opt list node lvlcod=2 noacct
* The original line is below
*.opt acct list node lvlcod=2

.tran 10ns 1000ns
vin 1 0 pulse(-1.6 -1.2 10ns 400ns 400ns 100ns 10000ns)
vee 8 0 -5
rin 1 2 50
rc1 0 3 50
r1 3 5 185
r2 5 8 760
rc2 0 6 100
re 4 8 260
rth1 7 8 125
rth2 7 0 85
cload 7 0 5pf
q1 3 2 4 qstd off
q2 6 5 4 qstd
q3 0 6 7 qstd
q4 0 6 7 qstd
.model qstd npn(level=1 is=1.0e-16 bf=50 br=0.1 rb=50 rc=10 tf=0.12ns tr=5ns
+  cje=0.4pf pe=0.8 me=0.4 cjc=0.5pf pc=0.8 mc=0.333 ccs=1pf va=50)
.print tran v(1) v(3) v(5) v(6)
.plot tran v(3) v(5) v(6) v(1)
.end
